US06627651B1
To 3-benzyloxy-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene (2.72 g) dissolved in dimethyl carbonate (30 ml) was added sodium methoxide (2.70 g, 50.0 mmol), and the resulting mixture was stirred at reflux with heating (110° C.) for 6 hours. The reaction mixture was mixed with 1 N hydrochloric acid (60 ml) under ice cooling and was concentrated under reduced pressure to remove the organic solvent, and the aqueous layer was then extracted with ethyl acetate (30 ml×3). The combined organic layers were dried with anhydrous magnesium sulfate and were then concentrated under reduced pressure, and the residue was subjected to column chromatography (silica gel: 40 g, ethyl acetate/hexane=1/30). The objective fractions were concentrated under reduced pressure to obtain methyl 3-benzyloxy-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene-6-carboxylate (2.88 g, 8.88 mmol).

reactant | 3-benzyloxy-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene | 2.72 g | C(C1=CC=CC=C1)OC1=CC2=C(CCCCC2=O)C=C1 | C18H18O2
reactant | sodium methoxide | 50.0 mmol, 2.70 g | C[O-].[Na+]
reactant | hydrochloric acid | 1 N, 60 ml | Cl | ClH
reactant | dimethyl carbonate | 30 ml | C(OC)(OC)=O | C3H6O3
product | methyl 3-benzyloxy-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene-6-carboxylate | 8.88 mmol, 2.88 g | C(C1=CC=CC=C1)OC1=CC2=C(CCCC(C2=O)C(=O)OC)C=C1 | C20H20O4
